US04563450
A mixture of benzhydryl 7-(2-phenylacetamido)-3-chloromethyl-3-cephem-4-carboxylate-1-oxide (70.0 g), 1H-tetrazole-5-thiol (15.6 g) and N,N-dimethylformamide (700 ml) was stirred to give a homogeneous solution and thereto was added triethylamine (32.1 g), keeping the temperature at 20° to 30° C. The resulting solution was stirred for 40 minutes at room temperature. After the reaction mixture was added to ice water (2.8 l), the mixture was adjusted to pH 2.0 with 10% hydrochloric acid and then filtered. The filter cake was washed with water and dried over phosphorus pentoxide under reduced pressure to give benzhydryl 7-(2-phenylacetamido)-3-(1H-tetrazole-5-yl)thiomethyl-3-cephem-4-carboxylate-1-oxide (78.8 g).

reactant | benzhydryl 7-(2-phenylacetamido)-3-chloromethyl-3-cephem-4-carboxylate-1-oxide | 70.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H25ClN2O5S
reactant | 1H-tetrazole-5-thiol | 15.6 g | N1N=NN=C1S | CH2N4S
reactant | N,N-dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 32.1 g | C(C)N(CC)CC | C6H15N
product | benzhydryl 7-(2-phenylacetamido)-3-(1H-tetrazole-5-yl)thiomethyl-3-cephem-4-carboxylate-1-oxide | 78.8 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)CSC2=NN=NN2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H26N6O5S2
